US06239074B1
3-[4-Chloro-3-(2-(2,2,2-trifluoroethoxycarbonyl)-ethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.85)
A suspension of 5.0 g of 3-[4-chloro-3-iodophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine, 2.0 g of 2,2,2-trifluoroethyl acrylate, 0.5 mg of palladium acetate and 1.1 g of sodium acetate in 50 ml of dimethylformamide was stirred for 4 hours at 120° C., after which further palladium acetate and 2,2,2-trifluoromethyl acrylate were added and stirring was continued for a further 2 hours at 120° C. The cooled reaction mixture was added to 200 ml of water and the precipitate was isolated, washed with petroleum ether and dried under greatly reduced pressure.

reactant | 3-[4-chloro-3-iodophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 5.0 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)I | C12H7ClF3IN2O2
reactant | 2,2,2-trifluoroethyl acrylate | 2.0 g | C(C=C)(=O)OCC(F)(F)F | C5H5F3O2
reactant | sodium acetate | 1.1 g | C(C)(=O)[O-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-Chloro-3-(2-(2,2,2-trifluoroethoxycarbonyl)-ethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=CC(=O)OCC(F)(F)F | C17H11ClF6N2O4
